US07482462B2
An aqueous solution of NH3 (32%) is added at RT to a solution of 3,5-bis(trifluoromethyl)-benzene-sulfonylchloride in EtAc. The mixture obtained is stirred and two phases are obtained and are separated. The organic layer obtained is washed with 1 N HCl and H2O, and dried. Solvent of the organic solution obtained is evaporated. 3,5-Bis-trifluoromethyl-benzene sulfonamide is obtained.

reactant | NH3 | N | H3N
reactant | 3,5-bis(trifluoromethyl)-benzene-sulfonylchloride | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)Cl)(F)F | C8H3ClF6O2S
product | 3,5-Bis-trifluoromethyl-benzene sulfonamide | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)N)(F)F | C8H5F6NO2S
